US06133271
Following the procedure of Example 97, the reaction of 2-methylimidazole with 2-chloro-5,6-dimethyl-4-(4-fluorobenzylamino)-thieno-[2,3-d]-pyrimidine gives 2-(2-methylimidazol-1-yl)-5,6-dimethyl-4-(4-fluorobenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
reactant | 2-chloro-5,6-dimethyl-4-(4-fluorobenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2C)C)NCC2=CC=C(C=C2)F | C15H13ClFN3S
product | 2-(2-methylimidazol-1-yl)-5,6-dimethyl-4-(4-fluorobenzylamino)-thieno-[2,3-d]-pyrimidine | CC=1N(C=CN1)C=1N=C(C2=C(N1)SC(=C2C)C)NCC2=CC=C(C=C2)F | C19H18FN5S
